Name:  ___               Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
Leg pain

 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
HPI: This is a ___ man with past medical history of DVT
not currently on anticoagulation who presents after living in
___ last ___ years for worsening leg pain, edema, to
establish care. 

He states that the bilateral swelling and thickening of his skin
began approximately ___ years ago,  at that time he noticed a
throbbing pain that would come and go.  This pain would be
improved with rest.  Then several years ago while he was in
___ visiting his sister he felt that the pain was worsening
and presented to an emergency room where he was diagnosed with
bilateral DVTs.  He was admitted to the hospital and started on
several blood thinners and per report finally placed on warfarin
when he began to have flank pain and was found to have a kidney
hematoma.  He was to follow-up to discuss ongoing blood thinner
use but then went back to ___ where he was working as a
___.  He states he saw some providers in 
___
who thought he just had gout and he did not pursue any further
blood thinners.  He thinks in total he was on blood thinners for
approximately 1 week.  Over the last several years his edema and
thickening of his skin has only continued to worsen.  He also
noticed increasing bilateral foot and leg pain.  Due to these
increasing medical problems he decided that it was time to move
back to ___ and got a job in ___ which he has
not yet started.  He flew back from ___ yesterday and
presented to the emergency room. 

In the emergency room his vitals initially were temperature 
96.4,
heart rate 86, blood pressure 120/98, respiratory rate 17,
satting 99% on room air.  He had an ultrasound which showed
bilateral DVTs, he also underwent a CT of his abdomen and pelvis
which was read as no acute process in the abdomen with no
evidence of fracture.  He was given a dose of morphine for pain
and started on a heparin drip and admitted to medicine for
further care. 

14 point review of system reviewed with patient positive for
fatigue, chronic back pain, otherwise negative
.

 
Past Medical History:
DVT not on anticoagulation
Possible gout
 
Social History:
___
Family History:
Family History: Mother-throat, stomach, ovarian cancer deceased
Father-multiple MIs passed away from unknown cancer
Sister-multiple mental health issues and eventual suicide
Brother-likely drug problem died from a bacterial infection

 
Physical Exam:
Appearance: pleasant, comfortable, no acute distress
Eyes: PERLL, EOMI, no conjuctival injection, anicteric
ENT: no sinus tenderness, MMM, oropharynx without exudate or
lesions, no supraclavicular or cervical lymphadenopathy, no JVD,
no carotid bruits, no thyromegaly or palpable thyroid nodules
Respiratory: CTA b/l with good air movement throughout
Cardiovascular: RR, S1 and S2 wnl, no murmurs, rubs or gallops
Gastrointestinal: nd, +b/s, soft, nt, no masses or HSM
Extremities: Bilateral 2+ pitting edema with chronic venous
stasis changes erythema bilaterally to mid shin, skin is
incredibly thick, palpable pulses bilaterally
Neurological: Alert, oriented to self, time, date, reason for
hospitalization.  Cn II-XII intact.  ___ strength throughout.  
No
sensory deficits to light touch appreciated.  No pass-pointing 
on
finger to nose.  2+DTR's-patellar and biceps. No asterixis, no
pronator drift, fluent speech.
Psychiatric: pleasant, appropriate affect
GU: no catheter in place

 
Pertinent Results:
Admission Labs 

___ 10:30PM BLOOD WBC-7.5 RBC-5.72 Hgb-17.1 Hct-50.3 MCV-88 
MCH-29.9 MCHC-34.0 RDW-12.9 RDWSD-41.5 Plt ___
___ 10:30PM BLOOD ___ PTT-25.5 ___
___ 10:30PM BLOOD Glucose-109* UreaN-22* Creat-1.1 Na-139 
K-4.3 Cl-107 HCO3-17* AnGap-15
___ 10:30PM BLOOD ALT-54* AST-32 AlkPhos-79 TotBili-0.6
___ 10:30PM BLOOD cTropnT-<0.01 proBNP-12
___ 10:30PM BLOOD Lipase-51
___ 05:09AM BLOOD Calcium-8.4 Phos-3.8 Mg-1.9
___ 06:15AM BLOOD %HbA1c-5.2 eAG-103
___ 06:15AM BLOOD HCV Ab-POS*
___ 05:09AM BLOOD HCV VL-PND
___ 10:36PM BLOOD Lactate-1.5

CT Ab
  
IMPRESSION: 
  
  
1. No acute process in the abdomen pelvis. 
2. Height loss of the T11 vertebral body with a subtle thin 
sclerotic line may 
represent an indeterminate compression deformity. There is no 
paravertebral 
edema or other CT evidence of acuity and further evaluation with 
MRI could be 
performed if there is high clinical suspicion for acute 
fracture. 
3. Cholelithiasis without evidence of cholecystitis. 

Ultrasound 
1. Nonocclusive thrombus in the right popliteal vein. There is 
occlusive 
thrombus in the saphenous vein.  One of the two gastrocnemius 
veins is 
completely non-compressible, the other is partially 
compressible. 
2. Nonocclusive occlusive clot in the left proximal popliteal 
vein. 
  
Discharge Labs 

___ 04:50AM BLOOD WBC-11.3* RBC-5.42 Hgb-15.9 Hct-47.5 
MCV-88 MCH-29.3 MCHC-33.5 RDW-12.4 RDWSD-39.7 Plt ___
___ 10:30PM BLOOD Neuts-52.0 ___ Monos-7.5 Eos-2.4 
Baso-0.9 Im ___ AbsNeut-3.88 AbsLymp-2.74 AbsMono-0.56 
AbsEos-0.18 AbsBaso-0.07
___ 04:50AM BLOOD Glucose-100 UreaN-24* Creat-1.0 Na-145 
K-4.1 Cl-107 HCO3-21* AnGap-17
___ 05:09AM BLOOD ALT-34 AST-16 AlkPhos-67 TotBili-0.4
___ 10:30PM BLOOD cTropnT-<0.01 proBNP-12
___ 05:09AM BLOOD Calcium-8.4 Phos-3.8 Mg-1.___ man with past medical history of DVT not currently 
on
anticoagulation who presents after prolonged stay in ___ 
for
worsening leg pain, edema found to have bilateral DVTs now 
stable on rivaroxaban. 
.
Acute problems:
#DVT 
Patient had known bilateral DVTs several years ago and did not 
complete 6 months of anticoagulation, he also has had several 
very long flights from ___ to the ___, his CT
abdomen pelvis is without signs of malignancy.  In the emergency 
room he was started on a heparin drip and admitted to medicine 
for further care.  Heparin drip was stopped on arrival to the 
floor and he was initiated on rivaroxaban 15 mg twice daily.  He 
does have bilateral leg edema and bilateral leg pain likely in 
the setting of DVTs.  He is being discharged on rivaroxaban 
which we were able to supply him with 2 weeks which were 
delivered bedside.  He states he is starting a new job in the 
next few days and then will have insurance to find a PCP and set 
up an appointment for refills.  It was stressed to him the 
importance of staying on blood thinner to avoid any adverse 
outcomes such as a pulmonary embolism.  Suspect that his pain 
and edema will improve over time as he continues on blood 
thinner.  I discussed with him that he might need lifelong 
anticoagulation given that this is his second episode of DVT 
although his first episode he did not complete the treatment 
more than 1 week.  He will need to continue to discuss this with 
outpatient providers
- ___

#Back Pain
Having some low back pain.  CT abdomen pelvis without clear
cause.  Was a slight area at T11 vertebrae that could have some
loss of height, although no red flag symptoms.  He was able to 
ambulate without issue, ___ felt he did not need physical 
therapy.  Pain improved with ibuprofen and Tylenol.  He was 
given x1 prednisone on ___ which did help with his pain.  If 
pain does not improve can consider referral to orthopedics as an 
outpatient to discuss possible MRI . 
-Ibuprofen
-Tylenol 

#Chronic Venous Stasis 
Likely in the setting of long-standing bilateral DVTs.  ABIs
cannot be checked in the setting of DVT he will need to have 
this
as an outpatient.

#Smoking 
Discussed smoking cessation with patient and he remains
___ offer nicotine patch while in the
hospital

#Hepatitis C antibody Positive 
Patient says he was diagnosed with hepatitis C at ___ years old
and was treated with interferon.  We will check a viral load to
make sure that hepatitis C has cleared.  Viral load was pending 
on discharge

#STI
Patient asked to be tested for sexually transmitted diseases 
while in the hospital, RPR was negative, HIV was negative, 
gonorrhea and Chlamydia were pending on discharge

#No Insurance 
Social work and financial services were consulted to try and 
help the patient apply for health safety net. Patient states 
that he is getting a new job in the next few days and will have 
insurance set up that way.  Discussed the importance that he 
continues to have follow-up with doctors ___ need 
blood thinner for the next 6 months, he expressed his 
understanding.

Transitional issues
[] Continue to discuss smoking cessation with patient
[] Can consider referral to orthopedics for MRI if back pain 
does not resolve
[] Follow-up hepatitis C viral load
[] Make sure patient is set up with a primary care doctor as 
soon as possible
[] Will need at least 6 months of anticoagulation if not 
lifelong

Greater than 30 minutes spent on complex discharge

 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. This patient is not taking any preadmission medications

 
Discharge Medications:
1.  Acetaminophen 1000 mg PO Q8H  
2.  Ibuprofen 600 mg PO Q8H:PRN Pain - Mild  
3.  Rivaroxaban 15 mg PO BID 
with food 
RX *rivaroxaban [___] 15 mg 1 tablet(s) by mouth twice a day 
Disp #*40 Tablet Refills:*0 

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
#Bilateral DVTS 
#Back Pain 

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
You were admitted to the hospital when you noticed worsening leg 
pain and swelling.  You had an ultrasound of your bilateral legs 
which showed blood clots of the veins of both legs.  You were 
started on a blood thinner called rivaroxaban and you will need 
to continue taking this medication for at least 6 months. 

Has we discussed the swelling and pain of your legs should go 
away over time as you remain on the blood thinner.  It is 
incredibly important that you find a primary care doctor and set 
yourself up for insurance.  You will need care going forward and 
you will need someone to prescribe you more rivaroxaban. 

It was a pleasure caring for you, 
Your ___ Team 
 
Followup Instructions:
___